US09063126B2
1-azabicyclo[3.3.1]nonan-4-one
A suspension of potassium tert-butoxide (8.15 g, 72.6 mmol; Aldrich) in toluene (200 mL) was heated to reflux for 15 minutes, then a solution of ethyl 1-(3-ethoxy-3-oxopropyl)-piperidine-3-carboxylate (6.16 g, 23.9 mmol) in toluene (50 mL) was added dropwise over 1 hour to the refluxing reaction mixture. After the addition was complete, the reaction was heated to reflux for an additional 5 hours, cooled to ambient temperature, and extracted with water (3×50 mL). The combined aqueous layers were acidified with concentrated hydrochloric acid (40 mL), then heated to reflux for 22 hours. The reaction was basified with 45 weight % potassium hydroxide (˜35 mL) and extracted with chloroform (3×100 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound: 1H NMR (300 MHz, CDCl3) δ ppm 1.50-1.81 (m, 2H), 1.90-1.96 (m, 2H), 2.39-2.43 (m, 1H), 2.49-2.54 (m, 2H), 3.08-3.41 (m, 6H); MS (DCI/NH3) m/z 140 (M+H)+.

reactant | potassium tert-butoxide | 72.6 mmol, 8.15 g | CC(C)([O-])C.[K+]
reactant | ethyl 1-(3-ethoxy-3-oxopropyl)-piperidine-3-carboxylate | 23.9 mmol, 6.16 g | C(C)OC(CCN1CC(CCC1)C(=O)OCC)=O | C13H23NO4
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-azabicyclo[3.3.1]nonan-4-one | N12CCC(C(CCC1)C2)=O | C8H13NO
